US05256780
To a solution of 2-(3-methylindol-2-yl)ethylamine (2.5 g) in acetic acid (25 ml) at 15° C. was added sodium cyanoborohydride (1.62 g) in one portion. The solution was stirred at room temperature. After 3 hours, sodium cyanoborohydride [1.0 g) was added and the mixture was stirred at room temperature for 12 hours. After dilution with ice-water, the reaction mixture was made basic with sodium hydroxide pellets and extracted three times with ether. The ether layer was washed with water and brine, dried over anhydrous sodium sulfate, and evaporated in vacuo to give 2-(2,3-dihydro-3-methylindol-2-yl)ethylamine (1.80 g) as an oil. The oil was used in the next reaction without further purification.

reactant | 2-(3-methylindol-2-yl)ethylamine | 2.5 g | CC1=C(NC2=CC=CC=C12)CCN | C11H14N2
reactant | sodium cyanoborohydride | 1.62 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-(2,3-dihydro-3-methylindol-2-yl)ethylamine | 1.80 g | CC1C(NC2=CC=CC=C12)CCN | C11H16N2
